US07825253B2
[5-(4-Chloro-benzenesulfonylmethyl)-quinolin-2-yl]-(5-methyl-furan-2-ylmethyl)-amine
(5-Chloromethyl-quinolin-2-yl)-(5-methyl-furan-2-ylmethyl)-amine (55 mg, 0.192 mmol) were dissolved in 1 mL dimethylformamide and 4-chlorobenzenesulphinic acid sodium salt (47 mg, 0.237 mmol) was added. The reaction mixture was stirred at 60° C. for 3 h. Water was added until a suspension was formed and the mixture was stirred for 15 min. The solid was filtered off and dried. The title compound was obtained as a brown solid (53 mg, 65%), MS: m/e=427.4 (M+H+).

reactant | (5-Chloromethyl-quinolin-2-yl)-(5-methyl-furan-2-ylmethyl)-amine | 0.192 mmol, 55 mg | ClCC1=C2C=CC(=NC2=CC=C1)NCC=1OC(=CC1)C | C16H15ClN2O
reactant | 4-chlorobenzenesulphinic acid sodium salt | 0.237 mmol, 47 mg | [Na+].ClC1=CC=C(C=C1)S(=O)[O-]
reactant | Water | O | H2O
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | [5-(4-Chloro-benzenesulfonylmethyl)-quinolin-2-yl]-(5-methyl-furan-2-ylmethyl)-amine | ClC1=CC=C(C=C1)S(=O)(=O)CC1=C2C=CC(=NC2=CC=C1)NCC=1OC(=CC1)C | C22H19ClN2O3S
